Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo F c PMH AF, tachy/brady syndrome, dilated cardiomyopathy 
(EF = 30%), DM2, MR presents as OSH transfer originally to CTS 
for fatigue and increasing dizziness, being evaluated for mitral 
valve replacement.  The patient was referred from ___ 
___, where she had frequent admissions for 
dizziness, with a history of atrial fibrillation and tachy-brady 
syndrome.  On presentation, she was found to be in AF c RVR to 
130s and 140s.  She was stated on dilt gtt for HR control, after 
which her HR normalized.  She refused anticoagulation with 
coumadin due to intolerance (nausea and vomiting).  She also had 
refused cardiac catheterization in the past for evaluation of 
CAD as an etiology of her cardiomyopathy for long-term, but 
agreed to it at ___.  ___ @ ___ revealed essentially normal 
coronary arteries.  She had recently stopped digoxin due to 
symptomatic bradycardia.  Additionally, she felt that a recent 
pharmacy change had caused her to feel unwell with taking 
lisinopril, so she discontiuned it.  CTA did not show any 
evidence of PE/PNA with some cardiomegaly.  She reported some 
mild increase in her lower extremity edema over the past week or 
so and was diuresed c lasix.  She was referred here for 
evaluation for an ICD/PPM for tachybrady syndrome, and for 
possible MVR.
.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.
 
Past Medical History:
-AF, tachy-brady syndrome
-Diabetes
-dyslipidemia
-hypertension
-mitral regurgitation
-TIA, L arm paresthesias ___
-s/p appendectomy and cholestectomy many
years ago, 
-2 broken ankles- right pinned, 
-umbilical hernia repair
-Bilat cataract
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
VS: T= 98.1 BP= 134-158/56-96 HR= 67-122 RR= 18 O2 sat= 96-99% 
RA
___: WDWN WF in NAD. Oriented x3. Mood, affect appropriate.  

HEENT: NCAT. EOMI, OP clear, MMM.
NECK: Supple with JVP of 6 cm.  
CARDIAC: Distant heart sounds.  Irregular rhythm, normal rate.  
Nl S1S2 with no appreciable mrg.
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
___ 09:25PM BLOOD WBC-8.5 RBC-4.91 Hgb-13.6 Hct-41.2 MCV-84 
MCH-27.6 MCHC-32.9 RDW-14.9 Plt ___
___ 06:15AM BLOOD ___ PTT-26.7 ___
___ 06:15AM BLOOD Glucose-117* UreaN-15 Creat-0.9 Na-139 
K-4.0 Cl-101 HCO3-28 AnGap-14
___ 09:25PM BLOOD %HbA1c-9.5*
___ 09:25PM BLOOD Albumin-4.1
___ 06:15AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.3
___ 09:25PM BLOOD ALT-41* AST-42* LD(LDH)-229 AlkPhos-84 
Amylase-88 TotBili-0.6
___ 11:54PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
UCx (___): No growth.
CXR: IMPRESSION: 
1. No pneumonia. 
2. Cardiomegaly. 
.
EKG: Atrial fibrillation. Consider left ventricular hypertrophy 
by voltage in lead aVL. Minor ST-T wave abnormalities. No 
previous tracing available for comparison.  
.
TTE (___): The left atrium is markedly dilated. The right 
atrium is moderately dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is 
moderate global left ventricular hypokinesis (LVEF = 30%). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic arch is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. The mitral valve leaflets are 
mildly thickened. Moderate (2+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.
.
IMPRESSION: Moderate global left ventricular systolic 
dysfunction. Moderate mitral regurgitation. Mild pulmonary 
hypertension.
.
CAROTID U/S: Impression: Right ICA stenosis <40%.  Left ICA 
stenosis <40%.
 
Brief Hospital Course:
# DCM - EF 30% by TTE ___.  Per recs, patient is not a good 
candidate for BiV pacer, as her QRS < 100 msec and therefore 
shows little evidence of dyssynchrony.  No evidence of volume 
overload or other heart failure symptoms at this time.
- Continued BB, lasix.  Restarted patient on lisinopril as she 
does not list a true allergic reaction / idiosyncratic reaction 
to the medication.  Instructed patient to stop medication if she 
does have a reaction to the medication.
- Patient was switched from atenolol to metoprolol succinate as 
this has a better indication for heart failure.
.
# AF/tachybrady - Patient is currently in AF with HR ranging 
from ___ - 120s.  Given her tachy/brady syndrome and impaired 
EF, may be of benefit to place ICD/pacer eventually.  After 
discussion with Dr. ___ was felt that first an EP study 
for possible ablation would be tried as outpatient.
- Follow up with ___ clinic for ablation study next week.
.
# MR - Per CTS, patient is not a good surgical candidate for MVR 
at this time.  TTE ___ only showed moderate MR.
.
# DM2 - SSI.
# HLP - Continue statin.
# HTN - SBP 130s - 150s.
 
Medications on Admission:
simva 20
glyburide 2.5 qid
atenolol 25
lasix 20
asa 81
niacin 1000
flaxseed
 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
5. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO four times a 
day.  
6. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Niacin 1,000 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.  
8. Flaxseed Oil  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: atrial fibrillation
Secondary Diagnoses:
1. tachy/brady syndrome
2. diabetes mellitus, type 2
3. hyperlipidemia
4. hypertension
5. dilated cardiomyopathy
6. mitral regurgitation
7. history of transient ischemic attack
8. cataracts

 
Discharge Condition:
Good, without chest pain or shortness of breath.

 
Discharge Instructions:
You were seen at ___ for evaluation of mitral valve 
replacement and/or implantable cardioverter/defibrillator 
placement.  After discussion with our cardiothoracic surgeons, 
it was felt that you should not receive mitral valve replacement 
at this time.

Additionally, we felt that there was no need to place a ICD at 
this time, but that you could benefit from an ablation study, 
which examines the conduction circuits in your heart and 
potentially removes abnormal ones.  Dr. ___ cardiac 
electrophysiologist, will contact you in the near future to 
schedule this procedure.

The following medications were changed:
DISCONTINUED atenolol
ADDED metoprolol succinate, as this is a better medication for 
heart failure
ADDED lisinopril, as this is an important medication for heart 
failure

If you experience palpitations, dizziness, chest pain, shortness 
of breath, or any other worrisome symptoms, please contact your 
PCP or go to the Emergency Department.
 
Followup Instructions:
___